US07544695B2
Prepartion of tert-Butyl (3-{[(6-Chloropyridin-3-yl)carbonyl]amino}-1-phenyl-1H-pyrazol-4-yl)-carbamate (J)
To a solution of t-butyl(3-amino-1-phenyl-1H-pyrazol-4-yl)carbamate (100 mg, 0.364 mmol) in pyridine (500 μL) was added 6-chloronicotinoyl chloride (53 mg, 0.304 mmol) in CH2Cl2 (2 mL). After 6 hours of stirring at room temperature, the reaction mixture was filtered and the solvent concentrated. Formation of t-butyl(3-{[(6-chloropyridin-3-yl)carbonyl]amino}-1-phenyl-1H-pyrazol-4-yl)carbamate (J) was confirmed by MS (ESI+): cal'd [M+H]+ 414.1, obs'd 414.1.

reactant | t-butyl(3-amino-1-phenyl-1H-pyrazol-4-yl)carbamate | 0.364 mmol, 100 mg | C(C)(C)(C)OC(NC=1C(=NN(C1)C1=CC=CC=C1)N)=O | C14H18N4O2
reactant | 6-chloronicotinoyl chloride | 0.304 mmol, 53 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
solvent | pyridine | 500 μL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (3-{[(6-Chloropyridin-3-yl)carbonyl]amino}-1-phenyl-1H-pyrazol-4-yl)-carbamate | ClC1=CC=C(C=N1)C(=O)NC1=NN(C=C1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C20H20ClN5O3
